Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillin G
 
Attending: ___.
 
Chief Complaint:
Alcohol withdrawal
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old gentleman with history of alcohol abuse who presents 
with alcohol withdrawal. Pt reports that he fell backwards out 
of a chair 1 week ago, had head strike and loss of 
consciousness. He reports being on the ground for a few hours, 
but was eventually able to get himself to the couch, where he 
stayed for the last week. He was able to drink alcohol and juice 
during that time. He reports progressive difficulty with 
ambulation secondary to instability. Patient was unable to 
ambulate so was urinating and defecating in his pants. Patient 
was crawling around the house on his hands of knees and 
eventually developed abdominal pain and nausea so decided to 
stop drinking. Patient was drinking two pints of alcohol a day 
with last drink prior to arrival. Denies fever, chills, chest 
pain, shortness of breath, numbness, tingling or weakness.  
 He has had diarrhea since he started drinking heavily this past 
week. Has had problems with ETOH since his ___, but acutely has 
worsened recently I/s/o lost job, financial difficulties. 
Towards the end of this past week, noticed some intermittent 
BRBPR. Never has had before. Last colonoscopy per patient 
reportedly ___ years ago, s/f diverticulosis and 2 polyps. 
 
Labs significant for leukocytosis, lactic acidosis, abnormal 
LFTs. 
CT abd notable for proctitis and mild segmental colitis. Hepatic 
steatosis. Colonic diverticulosis w/o diverticulitis. Left 
adrenal nodules, indeterminate, 
CT of C and T spine w/o acute fracture. Noncon head CT w/ small 
subgaleal hematoma w/o underlying fracture.  CXR w/ mild 
cardiomegaly, mild bibasilar atelectasis. No large effusion or 
pneumothorax. No convincing evidence for edema or pneumonia.  

 
Past Medical History:
- BPH  
- HTN not on meds (previously on HCTZ)  
- EtOH use disorder
 
Social History:
___
Family History:
father w/ DM and ETOH abuse. 
 
Physical Exam:
ADMISSION EXAM to ICU: 
VITALS: Tachy, hypertensive, sating well on RA
 GENERAL: lethargic, slurring words, AOx3, answering questions 
appropriately and following commands  
 HEENT: scleral icterus +, MMM, oropharynx clear  
 NECK: supple, JVP not elevated  
 LUNGS: diffuse crackles, nonlabored symmetric breathing  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: obese. TTP to RUQ, + ___ sign. soft, nondistended, no 
rebound or guarding, bowel sounds present.  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, stool on extremities
 SKIN: excoriated superficial lesion over coccyx. no jaundice 
skin or cirrhotic stigmata noted.  
 NEURO: motor and sensory grossly intact  

DISCHARGE EXAM:
98.2  138/80  63  18  94% RA  
GENERAL: Alert and in no apparent distress sitting in chair
EYES: Anicteric, pupils equally round
ENT: MMM
CV: Heart regular, normal perfusion, no JVD appreciated 
RESP: Normal respiratory effort, no w/r
GI: Abdomen soft, non-tender, BS present, no rebound
Skin: warm and dry without rashes 
NEURO: Alert, oriented, face symmetric, no focal deficits, no
asterixis appreciated.
PSYCH: normal thought content, normal mood 
EXTR: warm, ankle edema only

 
Pertinent Results:
ADMISSION RESULTS:
___ 05:15PM BLOOD WBC-13.0*# RBC-3.86* Hgb-13.0* Hct-37.9* 
MCV-98# MCH-33.7* MCHC-34.3 RDW-13.3 RDWSD-48.0* Plt Ct-84*#
___ 05:15PM BLOOD Glucose-205* UreaN-37* Creat-1.1 Na-139 
K-3.8 Cl-92* HCO3-25 AnGap-22*
___ 05:15PM BLOOD ALT-122* AST-229* AlkPhos-134* 
TotBili-4.1* DirBili-2.8* IndBili-1.3
___ 05:15PM BLOOD Albumin-3.6 Calcium-8.9 Phos-1.4* Mg-2.0
___ 09:58AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 05:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:28PM BLOOD Lactate-5.8*
. 
CXR ___ FINDINGS:  
AP upright and lateral views of the chest provided. 
Cardiomegaly is mild.  Mediastinal contour is stable.  There is 
mild bibasilar atelectasis.  No large effusion or pneumothorax.  
No convincing evidence for edema or pneumonia.  Imaged bony 
structures are intact.  No free air below the right 
hemidiaphragm. 
.
CT C-SPINE W/O CONTRAST Study Date of ___ IMPRESSION: 
1. No acute fracture. 
2. 2 mm anterolisthesis of C4 on C5, likely chronic though 
clinical 
correlation is advised. 
3. Degenerative changes of the cervical spine, worst at C5-6. 
.
CT T-SPINE W/O CONTRAST Study Date of ___ 7:38 ___ 
IMPRESSION:   
1. No acute fracture or malalignment. 
2. Dilated main pulmonary artery, partially imaged, suggestive 
of pulmonary arterial hypertension. 
.
CT HEAD W/O CONTRAST Study Date of ___  IMPRESSION: 
1. Subgaleal hematoma overlying the left vertex without 
underlying fracture. 
2. No acute intracranial abnormalities on noncontrast head CT. 
3. Age advanced involutional change. 
.
CT ABD & PELVIS WITH CONTRAST Study Date of ___  
IMPRESSION: 
1. Findings concerning for proctitis and mild segmental colitis 
as stated. 
2. Left adrenal nodules, indeterminate.  Consider further 
assessment with 
nonemergent dedicated adrenal CT/MRI. 
3. Hepatic steatosis. 
4. Colonic diverticulosis without diverticulitis.  Normal 
appendix. 
.
LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
9:57 AM IMPRESSION:
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 
2. Small segment V lesion seen on CT 2 days prior is not 
appreciated. 
.

___ 11:18 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ ON ___ @ 
1630. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative).
.
 
___ 07:15AM BLOOD WBC-9.1 RBC-3.25* Hgb-11.1* Hct-32.9* 
MCV-101* MCH-34.2* MCHC-33.7 RDW-13.6 RDWSD-50.1* Plt ___
___ 07:30AM BLOOD Glucose-104* UreaN-4* Creat-0.6 Na-147 
K-3.7 Cl-104 HCO3-32 AnGap-11
___ 07:35AM BLOOD ALT-79* AST-123* AlkPhos-159* TotBili-1.___ M with history of BPH and alcohol use disorder presents 
after a fall with CC of diarrhea. He receved a trauma evaluation 
that was largely unrevealing and was admitted to the MICU for 
phenobarbital taper.  He received the first three doses while in 
the MICU with improvement in his withdrawal symptoms. He was 
also diagnosed with C. diff, and started on treatment with 
flagyl and PO vancomycin. After ~24 hours in the MICU, he was 
transitioned out to medicine floor.

Acute toxic/metabolic encephalopathy/Alcohol withdrawal:
Patient initially with significant withdrawal requiring 
phenobarbital and agitation requiring Haldol. He completed a 
phenibarbitol taper for 7 days on ___ without complication.  He 
expressed a desire to quit and he has quit before, but is 
undergoing significant psychosocial stressors. He received 
Thiamine IV for possible Wernieke's and switched to oral 
thiamine/folate.  Pt was seen by SW and has supportive family 
with plan for ongoing outpt programs.  Sister (RN) is supportive 
and will help with abstinent programs going forward.  

Acute Alcoholic hepatitis: LFTs improved while in house and 
___ normal.  RUQ US showed echogenic liver consistent with 
steatosis. Other forms of liver disease  including 
steatohepatitis, hepatic fibrosis, or cirrhosis could not be 
excluded. 
Recommend f/u LFTs with PCP after discharge from rehab. 

Anemia secondary to acute blood loss, lower GI bleeding - The 
patient experienced some BRBPR with clots while he was in the 
MICU. He had a Flexaseal, and the bleeding was exacerbated when 
his flexaseal came out. Pt had a history of external hemorrhoids 
which were likely playing a role.  Pt also had initial CT 
imaging with proctitis and colitis.  He was found to have Cdiff 
colitis while in house.  BRBPR resolved over the course of 
hospitalization, he did not require any blood transfusions and 
was having normal BMs by the time of discharge.   

C. difficile colitis:  Pt received PO vancomycin 125mg QID and 
symptoms improved significantly with normal BMS by the time of 
discharge.  Pt is now day ___ for po vanc and will complete 
the course on ___.

Positive blood culture most c/w contaminant: One blood culture 
on ___ grew coag neg staph, but repeat blood cultures have been 
negative for growth.   

Incidental adrenal nodule - indeterminate: Pt will need further 
assessment with nonemergent dedicated adrenal CT/MRI.  This was 
reviewed with the patient and daughter in detail.  Pt expressed 
good understanding of this findings and need for follow up.

TRANSITION ISSUES:
- PCP follow for repeat LFTs and follow up adrenal nodule 
imaging
- Lower GI bleeding and alcoholic hepatitis, recommend GI follow 
up 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Miconazole Powder 2% 1 Appl TP PRN rash  
3.  Multivitamins 1 TAB PO DAILY  
4.  Nicotine Patch 7 mg TD DAILY  
5.  Thiamine 100 mg PO DAILY  
6.  Vancomycin Oral Liquid ___ mg PO QID 
take for another 2 days, last doses on ___  
7.  Witch ___ 50% Pad ___ID  
8.  Tamsulosin 0.4 mg PO DAILY 
please give in the morning  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Alcohol withdrawal 
C. difficile colitis 
Rectal bleeding 
Acute alcoholic hepatitis
Thrombocytopenia
Adrenal nodule (incidental finding) 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital with severe alcohol 
withdrawal,  acute liver injury likely from alcohol abuse and a 
diarrheal infection called C. diff.  You received antibiotics to 
treat the diarrhea and your symptoms have resolved. In addition, 
you were noted to have blood and blood clots in your bowel 
movements.  This was likely caused by internal hemorrhoids.  
Your blood counts were stable, bleeding resolved and you did not 
require any blood transfusions.   Whether there has been 
permanent liver damage is unclear at this time.  Please note, 
one of your scans saw a change (nodule) in your left adrenal 
gland.  It is unclear if this may have an effect on your health, 
but you will need to have a follow up CT scan or MRI of this 
nodule to further evaluate.   Good luck with rehab and staying 
sober.   Please make sure to follow up with your PCP after 
discharge from rehab. 

It was a pleasure to participate in your care,
Your ___ team 
 
Followup Instructions:
___